* C:\Users\b59mi\Documents\Business\4th Year Engineering\Semester 1\ECE490\Analog-Drum-Machine\Cowbell\Cowbell.asc
V1 N025 0 PULSE(0 5 0 10u 10u 0.000625 0.00125)
R1 N026 N025 33k
R2 0 N026 2.2k
R3 N027 pos 470k
R4 0 N028 100
Q1 N020 N027 N028 0 Q2N3904
C1 N027 N026 10µ
XD1 N021 N020 1n4148
C2 N018 N022 0.0022µ
R6 N018 0 2.2k
C3 N023 N018 .01µ
R7 N019 N023 470k
XU1 0 N023 pos neg N019 uA741
C4 N024 N019 1µ
R8 N024 N029 8.2k
XU2 N029 0 N030 pot_pow Rtot=5K wiper=.5 Rtap=1k tap=0.5
C5 N031 N030 .022µ
R9 N031 0 22k
XU3 N031 out pos neg out uA741
V2 N013 0 PULSE(0 5 0 10u 10u 0.000925 0.00185)
R10 N014 N013 33k
R11 0 N014 2.2k
R12 N015 pos 470k
R13 0 N016 100
Q2 N009 N015 N016 0 Q2N3904
C6 N015 N014 10µ
XD2 N010 N009 1n4148
R15 N021 N011 100k
R14 N011 N010 100k
R16 N017 N010 10k
C7 N018 N017 .0022µ
C8 N019 N018 .0033µ
R5 N022 N021 10k
R17 N012 N011 33k
C9 0 N012 1µ
C10 N011 0 .47µ
XD3 N008 N011 1n4148
R18 N005 N008 1k
R19 N003 N006 22k
R20 N002 N003 4.7k
Q4 N006 N007 0 0 Q2N3904
R21 N004 N007 22k
R22 N007 0 10k
V3 N004 0 PULSE(0 14 1 10u 10u 0.001 1 4)
V4 N002 0 14
V5 0 neg 15
V6 pos 0 15
Q3 N005 N003 N002 0 2N3906
.model NPN NPN
.model PNP PNP
.lib C:\Users\b59mi\Documents\LTspiceXVII\lib\cmp\standard.bjt
.inc Q2N3904.lib
* Special thanks to Kurt James Werner for making the original TR808\nCowbell circuit from the service manual easier to read!
.inc 1n4148.sub
.inc uA741.sub
.tran 0 5 0.5
.wave output.wav 16 44.1K V(out)
* Trigger Logic
* Oscillator 1
* Oscillator 2
.inc 2N3906.lib
.lib potentiometer_standard.lib
.backanno
.end
